US09167821B2
To a solution of 2-[3,5-bis(difluoromethyl)-1H-pyrazol-1-yl]-1-(4-{4-[5-(2-hydroxyphenyl)-4,5-dihydro-1,2-oxazol-3-yl]-1,3-thiazol-2-yl}piperidin-1-yl)ethanone (81 mg) and potassium carbonate (105 mg) in acetone (5 ml) is added, at room temperature, allyl bromide (73 mg). The reaction mixture is stirred at reflux for 5 h. Then the mixture is admixed with water and extracted with ethyl acetate. The combined organic phases are dried over sodium sulphate and concentrated. Purification by column chromatography gives 1-[4-(4-{5-[2-(allyloxy)phenyl]-4,5-dihydro-1,2-oxazol-3-yl}-1,3-thiazol-2-yl)piperidin-1-yl]-2-[3,5-bis(difluoromethyl)-1H-pyrazol-1-yl]ethanone (48 mg).

reactant | 2-[3,5-bis(difluoromethyl)-1H-pyrazol-1-yl]-1-(4-{4-[5-(2-hydroxyphenyl)-4,5-dihydro-1,2-oxazol-3-yl]-1,3-thiazol-2-yl}piperidin-1-yl)ethanone | 81 mg | FC(C1=NN(C(=C1)C(F)F)CC(=O)N1CCC(CC1)C=1SC=C(N1)C1=NOC(C1)C1=C(C=CC=C1)O)F | C24H23F4N5O3S
reactant | potassium carbonate | 105 mg | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 73 mg | C(C=C)Br | C3H5Br
reactant | water | O | H2O
solvent | acetone | 5 ml | CC(=O)C | C3H6O
product | 1-[4-(4-{5-[2-(allyloxy)phenyl]-4,5-dihydro-1,2-oxazol-3-yl}-1,3-thiazol-2-yl)piperidin-1-yl]-2-[3,5-bis(difluoromethyl)-1H-pyrazol-1-yl]ethanone | 48 mg | C(C=C)OC1=C(C=CC=C1)C1CC(=NO1)C=1N=C(SC1)C1CCN(CC1)C(CN1N=C(C=C1C(F)F)C(F)F)=O | C27H27F4N5O3S
